US05051423
N-[4-[(2-Hydroxy-3-phenoxypropyl)aminomethyl]phenyl]methanesulfonamide hydrochloride
To a solution of 18.0 g (0.76 mmol) of N-[4-(aminomethyl)phenyl]methanesulfonamide hydrochloride in 200 mL of methanol, add a solution of 3.04 g of sodium hydroxide in 10 mL of water. Stir for fifteen minutes. Add 11.14 g (0.076 mmol) of 1,2-epoxy-3-phenoxy propane and reflux for 4.5 h. Monitor the progress of the reaction by thin-layer chromatography on silica gel (acetonitrile:ammonium hydroxide, 9:1). Remove the solvent in vacuo. Chromatograph the oil on 800 g of silica gel using a mixture of methylene chloride:methanol:triethylamine (97:2:1) initially and changing to methylene chloride, methanol, triethylamine (95:4:1). Combine the fractions containing product and remove the solvent in vacuo. Dissolve the product in methanol and add a solution of hydrogen chloride in methanol. Remove the solvent in vacuo. Recrystallize the salt from acetonitrile:methanol to obtain the title compound.

reactant | N-[4-(aminomethyl)phenyl]methanesulfonamide hydrochloride | 0.76 mmol, 18.0 g | Cl.NCC1=CC=C(C=C1)NS(=O)(=O)C
reactant | sodium hydroxide | 3.04 g | [OH-].[Na+]
reactant | 1,2-epoxy-3-phenoxy propane | 0.076 mmol, 11.14 g | O1CC1COC1=CC=CC=C1 | C9H10O2
solvent | methanol | 200 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | N-[4-[(2-Hydroxy-3-phenoxypropyl)aminomethyl]phenyl]methanesulfonamide hydrochloride | Cl.OC(CNCC1=CC=C(C=C1)NS(=O)(=O)C)COC1=CC=CC=C1 | InChI=1S/C17H22N2O4S.ClH/c1-24(21,22)19-15-9-7-14(8-10-15)11-18-12-16(20)13-23-17-5-3-2-4-6-17;/h2-10,16,18-20H,11-13H2,1H3;1H
